US05041169
Metacresyl benzoate was prepared by vigorously shaking a mixture of metacresol (1 equivalent, 5 grams) and benzoyl chloride (1.2 equivalents, 7.1 grams) in a 10% aqueous solution of sodium hydroxide (100 ml) in a stoppered flask for 15 minutes. The white crystalline solid thus formed was removed by filtration, washed with water and dried to yield metacresyl benzoate.

reactant | metacresol | 5 grams, 1 equivalent | C1=C(C=CC=C1O)C | C7H8O
reactant | benzoyl chloride | 7.1 grams, 1.2 equivalents | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | sodium hydroxide | 100 ml | [OH-].[Na+]
product | metacresyl benzoate | C(C1=CC=CC=C1)(=O)OC1=CC(=CC=C1)C | C14H12O2
